************ Power Discrete BJT Electrical Parameters ***************
** Product: 2SA1962
** Package: TO-3P
** Audio Power Amplifier (Complement to FJA4313)
**-------------------------------------------------------------------
.subckt SA1962 1 2 3
q1 1 2 3 F1962
.model F1962 PNP
+ IS=1.30E-10          BF=91.42             VAF=100
+ IKF=4.480            ISE=1.02E-10         NE=2.0
+ VAR=100              ISC=5.0900E-9        NC=1.5
+ BR=0.882             IKR=2.9015           RE=0.0011
+ RC=0.0553            RB=140.05            RBM=0.0041
+ IRB=8.5e-9           CJE=2.00E-10         FC=0.5
+ CJC=9.45E-10         VJC=0.48             MJC=0.28
+ TF=9.250E-10         XTF=10               VTF=10
+ ITF=1                TR=1.00E-8           EG=0.76
+ XTB=2.68             
.ends SA1962
***************** Power Discrete Bipolar Thermal Model ****************
.subckt SA1962_Thermal TH TL
CTHERM1 TH 6 1.20e-3
CTHERM2 6 5  2.60e-3
CTHERM3 5 4  5.20e-3
CTHERM4 4 3  1.20e-2
CTHERM5 3 2  2.14e-2
CTHERM6 2 TL 8.20e-2 
RTHERM1 TH 6 5.00e-3
RTHERM2 6 5  1.20e-2
RTHERM3 5 4  1.53e-1
RTHERM4 4 3  2.30e-1
RTHERM5 3 2  2.70e-1
RTHERM6 2 TL 2.90e-1
.ends SA1962_Thermal 
**-------------------------------------------------------------------
** Creation: Mar.-11-2008   Rev: 0.0
** Fairchild Semiconductor

